US05430182
57.6 cm3 (0.408 mol) of trifluoroacetic acid anhydride is added dropwise to 30 g (0.408 mol) of L-glutamic acid. The mixture is heated for 2 h at 70° C. After removal of trifluoroacetic acid under vacuum, the oily residue thus obtained is triturated in an ethyl ether-hexane mixture. The N-trifluoroacetyl-L-glutamic acid anhydride obtained is directly used for the next step.

reactant | trifluoroacetic acid anhydride | 0.408 mol, 57.6 cm3 | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | L-glutamic acid | 0.408 mol, 30 g | N[C@@H](CCC(=O)O)C(=O)O | C5H9NO4
product | N-trifluoroacetyl-L-glutamic acid anhydride | FC(C(=O)N[C@H]1CCC(=O)OC1=O)(F)F | C7H6F3NO4
